US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4-carboxyphenylboronic acid (73 mg, 0.44 mmol, 1.50 equiv) as reactants. Purification by prep-TLC yielded 21 mg (19%) of 3-(4-carboxyphenyl)-2-phenylquinoxaline-6-carboxylic acid as a white solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-carboxyphenylboronic acid | 0.44 mmol, 73 mg, 1.50 equiv | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
product | 3-(4-carboxyphenyl)-2-phenylquinoxaline-6-carboxylic acid | 21 mg, 19% | C(=O)(O)C1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C22H14N2O4
